US04714702
4.5 g of N-(2-amino-5-nitrobenzoyl)-2-methyl-5-fluoroaniline, 1.85 g of pyridine and 2.26 g of fluoroacetyl chloride are treated in the same manner as described in Example 1-(1), whereby 5.2 g of N-(2-fluroacetamido-5-nitrobenzoyl)-2-methyl-5-fluoroaniline are obtained as colorless needles.

reactant | N-(2-amino-5-nitrobenzoyl)-2-methyl-5-fluoroaniline | 4.5 g | NC1=C(C(=O)NC2=C(C=CC(=C2)F)C)C=C(C=C1)[N+](=O)[O-] | C14H12FN3O3
reactant | fluoroacetyl chloride | 2.26 g | FCC(=O)Cl | C2H2ClFO
solvent | pyridine | 1.85 g | N1=CC=CC=C1 | C5H5N
product | N-(2-fluroacetamido-5-nitrobenzoyl)-2-methyl-5-fluoroaniline | 5.2 g | FCC(=O)NC1=C(C(=O)NC2=C(C=CC(=C2)F)C)C=C(C=C1)[N+](=O)[O-] | C16H13F2N3O4
